Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Lipitor / pravastatin
 
Attending: ___.
 
Chief Complaint:
Sigmoid Stricture 
 
Major Surgical or Invasive Procedure:
___ Flexible Sigmoidoscopy with dialation of sigmoid 
stricture from 8mm->15mm 

 
History of Present Illness:
___ who underwent lap sigmoid colectomy for recurrent
sigmoid diverticulitis ___.  Had a known polyp proximal to
resection that has not been removed or biopsied, described as
"small" to patient by his GI doc.  Had "attack" severe sharp and
crampy lower abdominal pain ___ and was treated for presumed
colitis at OSH.  Was well from ___.  Re-presented to OSH
___ with another "attack" similar to prior, was treated with
a 10d course of cipro/flagyl for "inflammation" seen distal to a
narrowing, or stricture.  Cscope ___ was unable to pass beyond
this, and unable to visualize known polyp.  Was taking 
Metamucil,
on low fiber diet, with some improvement, then this am 11:30
started with another attack.  Pain has now subsided somewhat, is
rated ___ instead of ___, which it was when he was on his
way to the hospital. On ROS he endorses some nausea with the 
pain
but no emesis, pain with stooling, and feeling of incomplete
evacuation.  Abnormally small and thin stools since surgery.  
Had
hemorrhoid bleed several weeks ago (sm amt BRBPR) and no
melanotic stools.  No bloody stools since then. He denies
fever/chills, vomiting.  Has a good appetite. No significant
weight loss.

 
Past Medical History:
ALPHA-THALASSEMIA                                               
ANEMIA                                                     
DIVERTICULITIS                                                  
HIGH PSA                                                        
HYPERLIPIDEMIA                                                  
HYPERTENSION                                                    
MONOCLONAL GAMMOPATHY                                           
ROTATOR CUFF SURGERY                                            
CLOSTRIDIUM DIFFICILE ENTEROCOLITIS                   ___      
R SHOULDER INJURY ___                                       
ANKLE FRACTURE                                                  
IMPAIRED FASTING GLUCOSE  
 
Social History:
___
Family History:
Father    ___      CORONARY ARTERY      mi age ___          
                        DISEASE                                 

Mother    Living        OSTEOARTHRITIS       

 
Physical Exam:
Afebrile, VSS 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, mildly tender to palpation LLQ, no
rebound or guarding, normoactive bowel sounds, no palpable 
masses
Ext: No ___ edema, ___ warm and well perfused
 
Brief Hospital Course:
The patient was admitted to the ___ Surgery service 
for sigmoid stricture. He was kept NPO and initiated on IV 
fluids. Gastroenterology was consulted and the patient underwent 
a sigmoidoscopy and dilation of sigmoid stricture from 8->15mm. 
The procedure occurred without complication. For more 
information about the procedure, please refer to the 
gastroenterology procedure note. The patient was transferred to 
the floor and advanced to a regular diet which he tolerated 
without difficulty. He was discharged home on HD 3. At the time 
of discharge, he was out of bed to ambulate without assistance, 
tolerating a regular diet, and voiding and stooling without 
difficulty. He was discharged with plan to follow up with 
gastroenterology for repeat dilation in 2 weeks. 
 
Medications on Admission:
1. Atenolol 50 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Psyllium Powder 1 PKT PO TID 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Psyllium Powder 1 PKT PO TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sigmoid stricture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted with concern for a stricture or narrowing of 
the anastomosis from prior sigmoid colectomy.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.
* Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
* Avoid driving or operating heavy machinery while taking pain 
medications.
* Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

 
Followup Instructions:
___